US07288537B2
A solution of 3-[3-(4 chloro-benzyl)-azetidin-1-yl]-propylamine (0.100 mg, 0.418 mmol) and (5-ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester (0.11 mg, 0.439 mmol) in DMSO is stirred at room temperature for 18 hours then partitioned between ethylacetate and water. The organic phase is washed with brine and dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography using 5% methanol in DCM as eluent to afford 1-{3-[3-(4-chloro-benzyl)-azetidin-1-yl]-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea. [M+H] 394.1

reactant | 3-[3-(4 chloro-benzyl)-azetidin-1-yl]-propylamine | 0.418 mmol, 0.100 mg | ClC1=CC=C(CC2CN(C2)CCCN)C=C1 | C13H19ClN2
reactant | (5-ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester | 0.439 mmol, 0.11 mg | C1(=CC=CC=C1)OC(NC=1SC(=NN1)CC)=O | C11H11N3O2S
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-{3-[3-(4-chloro-benzyl)-azetidin-1-yl]-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea | ClC1=CC=C(CC2CN(C2)CCCNC(=O)NC=2SC(=NN2)CC)C=C1 | C18H24ClN5OS
